US06838463B2
In 3.7 ml of tetrahydrofuran was dissolved 0.4 g of 6-(2-butynyloxy)pyrimidin-4-yl 2-fluorophenyl ketone, to which 3.6 ml (1.14 mol/l diethyl ether solution) of methyl lithium was added dropwise at −78° C. After stirring at −78° C. for 3 hours, the reaction mixture was poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 0.34 g of 4-(2-butynyloxy)-6-(α-hydroxy-α-methyl-2-fluorobenzyl)pyrimidine (the present compound (157)).

reactant | 6-(2-butynyloxy)pyrimidin-4-yl 2-fluorophenyl ketone | 0.4 g | FC1=C(C=CC=C1)C(=O)C1=NC=NC(=C1)OCC#CC | C15H11FN2O2
reactant | methyl lithium | 1.14 mol/l, 3.6 ml | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3.7 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(α-hydroxy-α-methyl-2-fluorobenzyl)pyrimidine | 0.34 g | C(C#CC)OC1=NC=NC(=C1)C(C1=C(C=CC=C1)F)(C)O | C16H15FN2O2
